US09359381B2
Step 5: 9-(4-Chlorothiazol-2-yl)-1,3,8,8-tetramethyl-5-phenyl-8,9-dihydro-1H-pyrimido[4,5-a]pyrrolizine-2,4(3H,7H)-dione
Sodium hydride (60% wt., 38.0 mg, 0.950 mmol) was added to a solution of 3-(4-chlorothiazol-2-yl)-3-(1,3-dimethyl-2,4-dioxo-5-phenyl-2,3,4,6-tetrahydro-1H-pyrrolo[3,4-d]pyrimidin-7-yl)-2,2-dimethylpropyl methanesulfonate (170 mg, 0.317 mmol) in THF (10 mL). The mixture was stirred at room temperature for 5 mins. The reaction was quenched with water and extracted with DCM (2×). The combined organic extracts were passed through a hydrophobic frit and evaporated under vacuum. Purification by chromatography on silica, eluting with 20-100% EtOAc/hexane afforded the title compound.

reactant | Sodium hydride | 0.950 mmol, 38.0 mg | [H-].[Na+]
reactant | 3-(4-chlorothiazol-2-yl)-3-(1,3-dimethyl-2,4-dioxo-5-phenyl-2,3,4,6-tetrahydro-1H-pyrrolo[3,4-d]pyrimidin-7-yl)-2,2-dimethylpropyl methanesulfonate | 0.317 mmol, 170 mg | CS(=O)(=O)OCC(C(C=1NC(=C2C1N(C(N(C2=O)C)=O)C)C2=CC=CC=C2)C=2SC=C(N2)Cl)(C)C | C23H25ClN4O5S2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 9-(4-Chlorothiazol-2-yl)-1,3,8,8-tetramethyl-5-phenyl-8,9-dihydro-1H-pyrimido[4,5-a]pyrrolizine-2,4(3H,7H)-dione | ClC=1N=C(SC1)C1C(CN2C(=C3C(=C12)N(C(N(C3=O)C)=O)C)C3=CC=CC=C3)(C)C | C22H21ClN4O2S
